US05268003
N,N'-Di(4-carbomethoxybenzoyl)-1,4-butanediamine
4-Carbomethoxybenzoyl chloride (19.07 g, 0.096 mol) was dissolved in toluene (380 mL) in a 3-necked, 1000 mL round-bottomed flask equipped with mechanical stirrer, thermometer, and addition funnel A solution of 1,4-butanediamine in water (80 mL) was added dropwise over a period of 40 minutes while the temperature of the reaction mixture was maintained at 25° C. by a water bath. A white solid formed immediately and the reaction mixture stirred for an additional 2 hours. The solid was collected on a frit and washed with toluene, water, 5% HCl, and water. Recrystallization from DMF gave white crystals which were dried in a vacuum oven at 60° C.; yield 17.91 g (90%); m.p. 260°-261° C. 1H NMR (200 MHz, DMSO-d6) δ8.70 (2H, m), 8.05-7.93 (8H, m) 3.88 (6H, s) 3.34 (4H, s), 1.58 (4H, s); IR (nujol) 3300, 1720, 1625, 1530, 1275, 1105, 860, 730 cm-1 ; low res. MS (CI, isobutane) 413 (MH+); 13C NMR (75 MHZ, DMSO-d6) δ166.9, 165.7, 165.4, 165.2, 138.7, 131.6, 129.0, 127.5, 127.2, 52.3, 26.5.

reactant | 4-Carbomethoxybenzoyl chloride | 0.096 mol, 19.07 g | C(=O)(OC)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | 1,4-butanediamine | C(CCCN)N | C4H12N2
solvent | toluene | 380 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 mL | O | H2O
product | N,N'-Di(4-carbomethoxybenzoyl)-1,4-butanediamine | C(=O)(OC)C1=CC=C(C(=O)NCCCCNC(C2=CC=C(C=C2)C(=O)OC)=O)C=C1 | C22H24N2O6
